US04237138
A solution of N-acetyl-4-hydroxypiperidine (30.5 g.) in dimethylformamide (200 ml.) was added dropwise to a stirred suspension of sodium hydride (11.26 g., 50% dispersion in mineral oil) in dimethylformamide (300 ml.) under an atmosphere of nitrogen. The reaction temperature was kept below 30° C. by external cooling and, after the addition was complete, stirring was continued for a further 11/4 hours. A solution of 1-bromo-2-methoxyethane (32.6 g.) in dimethylformamide (100 ml.) was then added dropwise with external cooling, and the resulting clear solution was stirred at room temperature overnight. The reaction mixture was then evaporated in vacuo, the residue partitioned between water and chloroform, the organic extracts dried (Na2SO4) and evaporated to leave a crude residue (16.1 g.). The above aqueous phase was saturated with sodium chloride, further extracted with chloroform, and the organic phase was dried (Na2SO4), and evaporated to leave a further residue (9.2 g.). This residue was combined with the original residue and heated on a steam bath overnight with hydrochloric acid (243 ml., 2N). The reaction mixture was extracted with chloroform to remove residual mineral oil, the aqueous phase concentrated, basified with sodium hydroxide (pH 12), then reextracted with chloroform. The organic extracts were washed with brine, dried (Na2SO4) and evaporated to leave 4-(2-methoxyethoxy)piperidine (8.3 g.). A sample of this product in ethyl acetate was converted to the oxalate salt by the addition of ethereal oxalic acid followed by recrystallization from ethanol, the oxalate having an m.p. of 86°-88° C.

reactant | N-acetyl-4-hydroxypiperidine | 30.5 g | C(C)(=O)N1CCC(CC1)O | C7H13NO2
reactant | sodium hydride | 11.26 g | [H-].[Na+]
reactant | 1-bromo-2-methoxyethane | 32.6 g | BrCCOC | C3H7BrO
reactant | sodium chloride | [Cl-].[Na+]
reactant | hydrochloric acid | 2N, 243 ml | Cl | ClH
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-(2-methoxyethoxy)piperidine | 8.3 g | COCCOC1CCNCC1 | C8H17NO2
